US04782165
1,3-Di(methoxycarbonyl)-4-methyl-5-hexanoyl-4-imidazolin-2-one
A mixture of 1.9 g (9.68 mmol) 4-methyl-5-hexanoyl-4-imidazolin-2-one and 20 ml dimethyl pyrocarbonate was stirred and heated to 95° C. for 1.5 hours. The resulting solution was cooled to room temperature and evaporated in vacuo to a white solid, which was recrystallized from ether to give 2.41 g (79.8%) of title compound: m.p. 84°-86° C.; 1H-NMR (CDCl3): 0.87 (t, 3, CH2CH3), 1.03-1.90 (m, 6, 3CH2 's), 2.33 (s, 3, CH3), 2.41 (2, t, COCH2), 3.90 (s, 3, NCOOCH3) and 3.93 ppm (s, 3, NCOOCH3).

reactant | 4-methyl-5-hexanoyl-4-imidazolin-2-one | 9.68 mmol, 1.9 g | CC=1NC(NC1C(CCCCC)=O)=O | C10H16N2O2
reactant | dimethyl pyrocarbonate | 20 ml | C(OC)(=O)OC(=O)OC | C4H6O5
product | 1,3-Di(methoxycarbonyl)-4-methyl-5-hexanoyl-4-imidazolin-2-one | 2.41 g, 79.8% | COC(=O)N1C(N(C(=C1C(CCCCC)=O)C)C(=O)OC)=O | C14H20N2O6
